US04906755
A solution containing 84.6 g of N-methylmorpholine N-oxide, 1 g of osmium tetroxide, 230 ml of water and 115 ml of acetone was allowed to stir for 30 minutes at room temperature. To this stirred mixture was added, very slowly over at least 8 hours, a solution of 80 g of ethyl 3-cyclopentene-1-carboxylate in 115 ml of acetone. The stirred mixture was heated at 50° C. for 2 hours to complete the reaction (verified by TLC examination using ethyl acetate/hexane 70/30). Sodium bisulfite (~10 g) was added, the stirring continued for a further 15 minutes, and the mixture filtered through Celite. The pH of the filtrate was adjusted to 7 by the addition of 12 N sulfuric acid (37 ml), the acetone evaporated, the pH of the residual solution adjusted to 2 with 12 N sulfuric acid (13 ml) and the solution extracted with ethyl acetate (4×250 ml). Evaporation of the dried ethyl acetate solution gave 4-ethoxycarbonyl-1,2-cyclopentanediol.

reactant | N-methylmorpholine N-oxide | 84.6 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 230 ml | O | H2O
reactant | ethyl 3-cyclopentene-1-carboxylate | 80 g | C1(CC=CC1)C(=O)OCC | C8H12O2
reactant | Sodium bisulfite | ~10 g | S([O-])(O)=O.[Na+]
reactant | acetone | 115 ml | CC(=O)C | C3H6O
reactant | acetone | 115 ml | CC(=O)C | C3H6O
catalyst | osmium tetroxide | 1 g | [Os](=O)(=O)(=O)=O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-ethoxycarbonyl-1,2-cyclopentanediol | C(C)OC(=O)C1CC(C(C1)O)O | C8H14O4
